US08232403B2
A suspension of 2-chloro-6,7-difluoroquinoline-3-carbaldehyde (8.30 g, 36 mmol), trans-(R)-2-[4-(benzyloxyethyl)cyclohexyl]pyrrolidine (10.5 g, 36 mmol), and potassium carbonate (7.60 g, 55 mmol) in toluene (90 mL) and water (12 mL) is stirred and refluxed for 4 hours. The reaction mixture is cooled to room temperature and then diluted with 1N HCl aq. and ethyl acetate. The organic layer is washed with sat. NaHCO3 aq., brine, dried over magnesium sulfate, filtered and concentrated to give 2-((R)-2-{4-[2-(benzyloxy)ethyl]cyclohexyl}pyrrolidin-1-yl)-6,7-difluoroquinoline-3-carbaldehyde as yellow syrup, which is used without further purification.

reactant | 2-chloro-6,7-difluoroquinoline-3-carbaldehyde | 36 mmol, 8.30 g | ClC1=NC2=CC(=C(C=C2C=C1C=O)F)F | C10H4ClF2NO
reactant | trans-(R)-2-[4-(benzyloxyethyl)cyclohexyl]pyrrolidine | 36 mmol, 10.5 g | C(C1=CC=CC=C1)OCC[C@@H]1CC[C@H](CC1)[C@@H]1NCCC1 | C19H29NO
reactant | potassium carbonate | 55 mmol, 7.60 g | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 90 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 12 mL | O | H2O
solvent | HCl | 1N | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-((R)-2-{4-[2-(benzyloxy)ethyl]cyclohexyl}pyrrolidin-1-yl)-6,7-difluoroquinoline-3-carbaldehyde | C(C1=CC=CC=C1)OCCC1CCC(CC1)[C@@H]1N(CCC1)C1=NC2=CC(=C(C=C2C=C1C=O)F)F | C29H32F2N2O2
